US03931226
Potassium cyanide (18 g) in water (150 ml) was added to a suspension of 2'-benzoyl-2,2,4'-trichloro-acetanilide (30 g) in ethanol (400 ml). The reaction was stirred overnight and after treatment with charcoal diluted with water, 2-Amino-5-chloro-3-phenyl-3H-indol-3-ol (19.57 g) was obtained as off white crystals m.p. 205°-208°C after recrystallization from acetonitrile.

reactant | Potassium cyanide | 18 g | [C-]#N.[K+]
reactant | 2'-benzoyl-2,2,4'-trichloro-acetanilide | 30 g | C(C1=CC=CC=C1)(=O)C1=C(NC(C(Cl)Cl)=O)C=CC(=C1)Cl | C15H10Cl3NO2
solvent | water | 150 ml | O | H2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | charcoal | C | CH4
product | 2-Amino-5-chloro-3-phenyl-3H-indol-3-ol | 19.57 g | NC1=NC2=CC=C(C=C2C1(O)C1=CC=CC=C1)Cl | C14H11ClN2O
